* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
R_R1         $N_0001 $N_0004  50k  
R_R2         0 $N_0001  22k  
R_R3         0 $N_0003  2.2k  
R_R4         $N_0002 $N_0004  3.3k  
V_V1         $N_0004 0 10V
