* Schematics Netlist *



Q_Q2         $N_0002 $N_0001 $N_0003 Q2N3904
R_RL         0 o  3.3k  
C_C4         o $N_0002  47u  
C_C3         0 $N_0003  47u  
R_R8         $N_0002 $N_0004  3.3k  
R_R9         0 $N_0003  2.2k  
R_R7         0 $N_0001  22k  
R_R6         $N_0001 $N_0004  57.3k  
C_C5         $N_0001 $N_0005  47u  
R_R5         0 $N_0006  2.2k  
R_R4         $N_0005 $N_0004  3.3k  
R_R2         $N_0007 $N_0004  57.3k  
R_R3         0 $N_0007  22k  
R_R1         i $N_0008  150  
C_C1         $N_0008 $N_0007  47u  
V_Vcc         $N_0004 0 10V
C_C2         0 $N_0006  47u  
Q_Q1         $N_0005 $N_0007 $N_0006 Q2N3904
V_Vin         i 0 DC 0V AC 1mV 
