* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
R_R1         i $N_0004  150k  
V_V2         $N_0005 0 10V
R_R2         $N_0001 $N_0005  57.3k  
C_C1         $N_0004 $N_0001  47u  
R_R3         1mv $N_0001  22k  
R_R6         1mv $N_0006  100  
R_R7         $N_0006 $N_0003  2.1k  
R_R4         $N_0002 $N_0005  3.3k  
C_C2         $N_0002 o  47u  
C_C3         $N_0006 $N_0003  47u  
R_R8         1mv o  3.3k  
V_V3         i 1mv DC 0V AC 1mv 
