* Schematics Netlist *



V_V2         $N_0001 0 10V
V_V1         $N_0002 0 0V
R_R1         $N_0003 $N_0001  1k  
J_J1         $N_0003 $N_0002 0 J2N3819 
