* Schematics Netlist *



V_V1         $N_0001 0 0V
R_R1         $N_0003 $N_0002  1k  
V_V2         $N_0002 0 20V
M_M1         $N_0003 $N_0001 0 0 IRF150
