* Schematics Netlist *



J_J1         $N_0003 $N_0001 $N_0002 J2N3822 
C_C2         $N_0003 o  .47u  
V_VDD         $N_0004 0 20V
V_Vin         i 0  
+SIN 0 150mV 100KHz 0 0 0
R_R4         0 $N_0002  3.3k  
R_R2         0 $N_0005  2.7Meg  
C_C4         0 $N_0002  .47u  
C_C1         i $N_0001  .47u  
R_R1         $N_0005 $N_0004  6.8Meg  
R_R3         $N_0003 $N_0004  2.7k  
R_RL         0 o  1k  
