* Schematics Netlist *



R_R2         $N_0002 $N_0001  1k  
R_R3         o $N_0001  1k  
Q_Q1         $N_0002 i $N_0003 Q2N3904
R_R9         0 $N_0004  10k  
R_R6         $N_0005 $N_0001  2.2k  
R_R7         0 $N_0005  150k  
R_R4         $N_0006 $N_0001  2.2k  
V_V3         i 0 DC 0V AC 10V 
R_R5         0 $N_0006  150k  
R_R8         0 $N_0003  10k  
Q_Q3         o $N_0005 $N_0004 Q2N3904
